US05376668
1,2,5,6-tetrahydro-1-methyl-3-(3-(2-ethylsulfinyl-1-ethoxy)-1,2,5-thiadiazol-4-yl)pyridine oxalate was prepared in the same manner using 2-(ethylthio)ethanol as the starting alcohol. The intermediate 3-(4-(2-ethylthio-1-ethoxy)-1,2,5-thiadiazol-3-yl)pyridine was oxidized with 1.1 equivalent of NaIO4 and 1 equivalent MeSO3H using water as the reaction solvent. After a reaction time of 3.5 h. the solution was made basic with 2N NaOH and extracted with ethyl acetate. The combined extracts were dried over MgSO4 and evaporated under vacuum. The resulting sulfoxide was then converted to the title compound in the same manner described above. M.p. 171°-172° C., M+ : 302. Compound 45.

reactant | 2-(ethylthio)ethanol | C(C)SCCO | C4H10OS
reactant | 3-(4-(2-ethylthio-1-ethoxy)-1,2,5-thiadiazol-3-yl)pyridine | C(C)SCCOC=1C(=NSN1)C=1C=NC=CC1 | C11H13N3OS2
reactant | MeSO3H | 1 equivalent | CS(=O)(=O)O | CH4O3S
reactant | NaOH | 2N | [OH-].[Na+]
reactant | water | O | H2O
product | 1,2,5,6-tetrahydro-1-methyl-3-(3-(2-ethylsulfinyl-1-ethoxy)-1,2,5-thiadiazol-4-yl)pyridine oxalate | C(C(=O)O)(=O)O.CN1CC(=CCC1)C=1C(=NSN1)OCCS(=O)CC | InChI=1S/C12H19N3O2S2.C2H2O4/c1-3-19(16)8-7-17-12-11(13-18-14-12)10-5-4-6-15(2)9-10;3-1(4)2(5)6/h5H,3-4,6-9H2,1-2H3;(H,3,4)(H,5,6)
